US06586617B1
Synthesis of 4′-Chloro-N-methyl-2′-methanesulfinyl-p-toluenesulfonanilide (Compound No. 63)
To a suspension of 4′-chloro-N-methyl-2′-methylthio-p-toluenesulfonanilide (0.35 g (1.02 mmol)) in acetic acid (2.0 ml), 30% hydrogen peroxide water (0.12 g (1.06 mmol)) was added dropwise with stirring at room temperature. The mixture was stirred at 50° C. for 15 minutes to get a homogeneous solution, and then stirring was continued at room temperature for 18 hours. Then, the resulting solution was dissolved in ethyl acetate, washed with aqueous sodium hydroxide solution, and water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a crude crystals. Disopropyl ether was added to these crystals. The crystals were filtered and washed to give 0.27 g (74%) of the title compound as white crystals.

reactant | 4′-chloro-N-methyl-2′-methylthio-p-toluenesulfonanilide | 1.02 mmol, 0.35 g | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)SC | C15H16ClNO2S2
reactant | hydrogen peroxide water | 1.06 mmol, 0.12 g | O.OO
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-Chloro-N-methyl-2′-methanesulfinyl-p-toluenesulfonanilide | 0.27 g, 74% | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)S(=O)C | C15H16ClNO3S2
